US04628062
2-Propionylamino-3-(2-methoxyethoxy)-1,4-naphthoquinone (compound 13)
15.2 g (0.1 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene in 50 ml of ethylene glycol monomethyl ether are added to a suspension of 26.35 g (0.1 mol) of 3-chloro-2-propionylamino-1,4-naphthoquinone in 100 ml of ethylene glycol monomethyl ether, and the mixture is stored at room temperature overnight. After cooling to 0° C., the mixture is filtered and the precipitate is thoroughly washed with cold methanol. Yield: 19.3 g (64% of theory), melting point 116°-17° C.

reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.1 mol, 15.2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 3-chloro-2-propionylamino-1,4-naphthoquinone | 0.1 mol, 26.35 g | ClC1=C(C(C2=CC=CC=C2C1=O)=O)NC(CC)=O | C13H10ClNO3
reactant | ethylene glycol monomethyl ether | 50 ml | COCCO | C3H8O2
reactant | ethylene glycol monomethyl ether | 100 ml | COCCO | C3H8O2
product | 2-Propionylamino-3-(2-methoxyethoxy)-1,4-naphthoquinone | C(CC)(=O)NC=1C(C2=CC=CC=C2C(C1OCCOC)=O)=O | C16H17NO5
